US05047420
15.5 g (0.065 mole) of 3-methoxy-5-methylthio-4-propoxybenzaldehyde in 300 ml of methanol was cooled in ice bath. 1 g (0.026 mole) of sodium borohydride was added in 3 portions to the above solution. The mixture was stirred for 10 minutes in ice bath. MeOH was removed, and the residue was purified by flash column chromatography to afford 15.45 g (95% yield) of 3-methoxy-5-methylthio-4-propoxybenzyl alcohol as a light yellow oil.

reactant | 3-methoxy-5-methylthio-4-propoxybenzaldehyde | 0.065 mole, 15.5 g | COC=1C=C(C=O)C=C(C1OCCC)SC | C12H16O3S
reactant | sodium borohydride | 0.026 mole, 1 g | [BH4-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 3-methoxy-5-methylthio-4-propoxybenzyl alcohol | 15.45 g, 95% yield | COC=1C=C(CO)C=C(C1OCCC)SC | C12H18O3S
